US07888509B2
FIG. 38 depicts the synthesis of 1,8-bis(3,3′-(3,5-dimethylphenyl)-9,9′-diacridyl)naphthalene (32). Suzuki coupling of commercially available 3-bromoaniline, 25, and 3,5-dimethylboronic acid afforded 3-(3,5-dimethyl-phenyl)aniline, 26, in high yields. Treatment of 26 with 2-chlorobenzoic acid 27 gave N-3-(3,5-dimethylphenyl)anthranilic acid, 28, which was converted to 9-bromo-3-(3,5-dimethylphenyl)acridine, 29, using phosphorous oxybromide. Lithiation of 29 at −78° C. followed by stannylation with trimethylstannyl chloride resulted in the formation of 3-(3,5-dimethylphenyl)-9-trimethylstannylacridine, 30, in high yields. Employing stannane 30 and 1,8-dibromonaphthalene 31 in a CuO-promoted Stille coupling yielded 1,8-bis(3,3′-(3,5-dimethylphenyl)-9,9′-diacridyl)naphthalene, 32. We were pleased to find that the anti-isomers of 32 can be separated on a WhelkO-1 column. The CD spectra of the enantiomers of 32 are shown in FIG. 39.

reactant | 9-bromo-3-(3,5-dimethylphenyl)acridine | BrC=1C2=CC=CC=C2N=C2C=C(C=CC12)C1=CC(=CC(=C1)C)C | C21H16BrN
reactant | phosphorous oxybromide | P(=O)(Br)(Br)Br | Br3OP
reactant | trimethylstannyl chloride | C[Sn](C)(C)Cl
product | 3-(3,5-dimethylphenyl)-9-trimethylstannylacridine | CC=1C=C(C=C(C1)C)C=1C=CC2=C(C3=CC=CC=C3N=C2C1)[Sn](C)(C)C | InChI=1S/C21H16N.3CH3.Sn/c1-14-9-15(2)11-19(10-14)16-7-8-18-12-17-5-3-4-6-20(17)22-21(18)13-16;;;;/h3-11,13H,1-2H3;3*1H3;
